### PR TITLE
[Merged by Bors] - feat: more `PGame.identical` `PGame.memₗ` `PGame.memᵣ` APIs

### PR DESCRIPTION
**Pull request by astrainfinita**
This PR is the first step to remove `PGame.Relabelling` (which is only for implementing things in lean and not real identity) and define games with identity as `Eq`.

[Zulip](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Well-founded.20recursion.20for.20pgames/near/338664567)

---

- [x] depends on: #5888
- [x] depends on: #17120
- [x] depends on: #17122

[Open in Gitpod](https://gitpod.io/from-referrer/)

(Was a [mathlib3 PR](https://github.com/leanprover-community/mathlib/pull/18515))

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#5888
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/SetTheory/Game/Basic.lean [hunk 1]
```diff
@@ -338,28 +336,28 @@ theorem mul_moveRight_inr {x y : PGame} {i j} :
   rfl
 #align pgame.mul_move_right_inr SetTheory.PGame.mul_moveRight_inr
 
--- @[simp] -- Porting note: simpNF linter complains
+@[nolint simpNF, simp] -- Porting note: simpNF linter complains, but this is a useful dsimp lemma
```
Comment (urkud) [inline Mathlib/SetTheory/Game/Basic.lean:339]: While we're looking for someone to review the mathematically important parts of the PR, could you please comment on what `simp` lemmas can simplify the LHS of this and other lemmas you mark `nolint simpNF, simp`? Are they `dsimp`?

**Comment by timotree3** [comment]
Thanks for the PR @negiizhao! I have been eagerly awaiting this cleanup in the Combinatorial Game Theory section of the library, and I appreciate you putting in the effort to get it done.

I volunteered to review this and #7162 [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/feat.3A.20define.20PGame.2Eidentical.20PGame.2Emem.E2.82.97.20PGame.2Emem.E1.B5.A3.20.235901/near/421294173). I haven't gone through individual proofs yet, so I want to comment on the direction this takes the library in and the plan for these files.

I've just made a tracking issue for SetTheory/Game. This PR agrees with that roadmap, checking off the first box, so I agree with the direction this takes the library in. That said, I wonder where to draw the boundary of what goes inside one PR. It would be nice to remove `Relabelling` entirely and do so in the same PR that introduces its replacement -- `Identical`. I imagine that the reason `Relabelling` wasn't removed in #7162 was because `Short` still has lemmas which depend on it. Can we just delete those lemmas? The consensus seems to be that the current definition of `Short` is meaningless anyway.

Once we have the removal of `Relabelling` and its replacement by `Identical` in the same PR, it would be nice to minimize the diff so that the PR is effectively just updating the definition of `Relabelling`, fixing proofs, deleting statements which are no longer true because they never respected extensional equivalence, and renaming `Relabelling` -> `Identical`. To that end, I would request that we split out the main unrelated change that I'm seeing in the diff of #7162: adding `@[nolint simpNF, simp]` to a bunch of lemmas. If those are necessary `dsimp` lemmas, then can we remove `@[simp]` from the conflicting non-definitonal lemma? (Note that we will probably be able to remove all of this API for `PGame`, including this simp lemmas, once we have a foundational API for `IGame` that doesn't reference `PGame` at all)

**Comment by negiizhao** [comment]
Sorry for delay. I've been very busy these past few months. I'm not sure we can completely remove `Relabelling` now. Not only `Mathlib.SetTheory.Game.Short`, everything in `Mathlib.SetTheory.Game.State` depends on it too. cc @semorrison

**Comment by semorrison** [comment]
Sorry, I don't have much time to look at this. @timotree3, it seems you have a coherent plan here, can you push it over the line? Ping me once all it needs to final approval and a merge. :-)

**Comment by semorrison** [comment]
@timotree3, @vihdzp, @hwatheod, would one of you be able to give this a review?

File: Mathlib/SetTheory/Game/Basic.lean [hunk 2]
```diff
@@ -225,16 +223,16 @@ theorem quot_sub (a b : PGame) : ⟦a - b⟧ = (⟦a⟧ : Game) - ⟦b⟧ :=
...
+                                  (fun _ => Game.PGame.equiv_iff_game_eq.2 (hr _)))
 
 /-! Multiplicative operations can be defined at the level of pre-games,
 but to prove their properties we need to use the abelian group structure of games.
 Hence we define them here. -/
 
 
 /-- The product of `x = {xL | xR}` and `y = {yL | yR}` is
-`{xL*y + x*yL - xL*yL, xR*y + x*yR - xR*yR | xL*y + x*yR - xL*yR, x*yL + xR*y - xR*yL }`. -/
+`{xL*y + x*yL - xL*yL, xR*y + x*yR - xR*yR | xL*y + x*yR - xL*yR, xR*y + x*yL - xR*yL}`. -/
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/Basic.lean:235]: This and the previous golfing of `quot_eq_of_mk'_quot_eq` seem unrelated to the rest of the PR, but they seem like improvements to me so I've got no issue.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 3]
```diff
@@ -340,6 +352,153 @@ instance uniqueOneLeftMoves : Unique (LeftMoves 1) :=
...
+every right move of `x` is identical to some right move of `y`, and vice versa. -/
+def Identical : ∀ (_ _ : PGame), Prop
+  | mk _ _ xL xR, mk _ _ yL yR =>
+    Relator.BiTotal (fun i j ↦ Identical (xL i) (yL j)) ∧
+      Relator.BiTotal (fun i j ↦ Identical (xR i) (yR j))
+
+@[inherit_doc] scoped infix:50 " ≡ " => PGame.Identical
+
+/-- `x ∈ₗ y` if `x` is identical to some left move of `y`. -/
+def memₗ (x y : PGame.{u}) : Prop := ∃ b, x ≡ (y.moveLeft b)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:368]: Are the parentheses required here? I would expect an equality-like operation to be near the end of the operator precedence chain.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 4]
```diff
@@ -340,6 +352,153 @@ instance uniqueOneLeftMoves : Unique (LeftMoves 1) :=
...
+/-- `Identical` as a `Setoid`. -/
+def identicalSetoid : Setoid PGame :=
+  ⟨Identical, Identical.refl, Identical.symm, Identical.trans⟩
+
+instance : IsRefl PGame (· ≡ ·) := ⟨Identical.refl⟩
+instance : IsSymm PGame (· ≡ ·) := ⟨fun _ _ ↦ Identical.symm⟩
+instance : IsTrans PGame (· ≡ ·) := ⟨fun _ _ _ ↦ Identical.trans⟩
+instance : IsEquiv PGame (· ≡ ·) := { }
+
+set_option linter.unusedVariables false in
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:411]: In my view (which might not be too applicable to Lean), disabling the linter should be a last resort thing you do when you want to do some very specific formatting, or when it's being faulty. You do this a bunch of times in this PR, why not just replace the unused variables with underscores?

File: Mathlib/SetTheory/Game/PGame.lean [hunk 5]
```diff
@@ -340,6 +352,153 @@ instance uniqueOneLeftMoves : Unique (LeftMoves 1) :=
...
+/-- A left move of `x` is identical to some left move of `y`. -/
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:412]: I'd add "if `x` and `y` are identical" at the start of these.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 6]
```diff
@@ -340,6 +352,153 @@ instance uniqueOneLeftMoves : Unique (LeftMoves 1) :=
...
+lemma Identical.moveLeft : ∀ {x y} (r : x ≡ y) (i : x.LeftMoves),
+    ∃ j, x.moveLeft i ≡ y.moveLeft j
+  | mk _ _ _ _, mk _ _ _ _, ⟨hl, hr⟩, i => hl.1 i
+
+set_option linter.unusedVariables false in
+/-- A left move of `y` is identical to some left move of `x`. -/
+lemma Identical.moveLeft_symm : ∀ {x y} (r : x ≡ y) (i : y.LeftMoves),
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:419]: Isn't this just `Identical.symm.moveLeft`?

File: Mathlib/SetTheory/Game/PGame.lean [hunk 7]
```diff
@@ -340,6 +352,153 @@ instance uniqueOneLeftMoves : Unique (LeftMoves 1) :=
...
+    ∃ j, x.moveRight i ≡ y.moveRight j
+  | mk _ _ _ _, mk _ _ _ _, ⟨hl, hr⟩, i => hr.1 i
+
+set_option linter.unusedVariables false in
+/-- A right move of `y` is identical to some right move of `x`. -/
+lemma Identical.moveRight_symm : ∀ {x y} (r : x ≡ y) (i : y.RightMoves),
+    ∃ j, x.moveRight j ≡ y.moveRight i
+  | mk _ _ _ _, mk _ _ _ _, ⟨hl, hr⟩, i => hr.2 i
+
+lemma Identical.trans_eq {x y z} (h₁ : x ≡ y) (h₂ : y = z) : x ≡ z := h₁.trans (of_eq h₂)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:435]: Besides the very basic negation and inequalities, there don't seem to be any other `trans_eq` lemmas in mathlib. I don't think this one is needed either - in practice you'd use `rw` immediately after finding `y = z`.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 8]
```diff
@@ -340,6 +352,153 @@ instance uniqueOneLeftMoves : Unique (LeftMoves 1) :=
...
+lemma Identical.ext_iff {x y} : x ≡ y ↔ (∀ z, z ∈ₗ x ↔ z ∈ₗ y) ∧ (∀ z, z ∈ᵣ x ↔ z ∈ᵣ y) :=
+  ⟨fun h ↦ ⟨@memₗ.congr_right _ _ h, @memᵣ.congr_right _ _ h⟩, fun h ↦ h.elim Identical.ext⟩
+
+lemma Identical.congr_right {x y z} (h : x ≡ y) : z ≡ x ↔ z ≡ y :=
+  ⟨fun hz ↦ hz.trans h, fun hz ↦ hz.trans h.symm⟩
+
+lemma Identical.congr_left {x y z} (h : x ≡ y) : x ≡ z ↔ y ≡ z :=
+  ⟨fun hz ↦ h.symm.trans hz, fun hz ↦ h.trans hz⟩
+
+lemma Identical.of_fn {x y : PGame}
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:485]: Maybe `Identical.of_fun`? Also, it might be worth leaving a doc comment on this one, since it's not immediately obvious what the purpose is. Same goes for `Equiv.of_fun`.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 9]
```diff
@@ -818,12 +987,51 @@ theorem equiv_congr_right {x₁ x₂ : PGame} : (x₁ ≈ x₂) ↔ ∀ y₁, (x
...
+    (hr : (∀ a ∈ᵣ x, ∃ b ∈ᵣ y, a ≈ b) ∧ (∀ b ∈ᵣ y, ∃ a ∈ᵣ x, a ≈ b)) :
+    x ≈ y := by
+  refine' Equiv.ext (hl.imp (fun h i ↦ _) (fun h i ↦ _)) (hr.imp (fun h i ↦ _) (fun h i ↦ _)) <;>
+    obtain ⟨_, ⟨i, hi⟩, h⟩ := h _ ⟨i, refl _⟩
+  · exact ⟨i, Equiv.trans h hi.equiv⟩
+  · exact ⟨i, Equiv.trans hi.symm.equiv h⟩
+  · exact ⟨i, Equiv.trans h hi.equiv⟩
+  · exact ⟨i, Equiv.trans hi.symm.equiv h⟩
+
+theorem Equiv.ext'' {x y : PGame}
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:1025]: Isn't this the exact same proof as `Equiv.ext'`? Are these theorems def-eq? If so, I think it only makes sense to keep one of them, depending on whether we want the API to be written in terms of `Relator.BiTotal` or not.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 10]
```diff
@@ -1310,24 +1579,24 @@ def zeroAddRelabelling : ∀ x : PGame.{u}, 0 + x ≡r x
 theorem zero_add_equiv (x : PGame.{u}) : 0 + x ≈ x :=
   (zeroAddRelabelling x).equiv
 
-theorem leftMoves_add : ∀ x y : PGame.{u}, (x + y).LeftMoves = Sum x.LeftMoves y.LeftMoves
+theorem leftMoves_add : ∀ x y : PGame.{u}, (x + y).LeftMoves = (x.LeftMoves ⊕ y.LeftMoves)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:1582]: Again, I'd argue these stylistic changes would have been better off in another PR, but they're good changes so I once again approve of them.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 11]
```diff
@@ -1405,6 +1674,136 @@ instance isEmpty_nat_rightMoves : ∀ n : ℕ, IsEmpty (RightMoves n)
...
+    · rintro (i | i) _ ⟨rfl⟩
+      · exact PGame.neg_add _ _
+      · simpa [Equiv.refl] using PGame.neg_add _ _
+  termination_by (x, y)
+
+/-- `-(x + y)` has exactly the same moves as `-y + -x`. -/
+protected lemma neg_add_rev (x y : PGame) : -(x + y) ≡ -y + -x :=
+  Identical.trans (of_eq (x.neg_add y)) (PGame.add_comm _ _)
+
+lemma identical_zero_iff : ∀ (x : PGame),
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:1750]: This could be made into a series of more general lemmas for relations. For instance, a relation `α → β → Prop` with `IsEmpty α` is only right-total if `IsEmpty β`.

**Review by vihdzp — COMMENTED** [review]
Thanks a lot for reviving this. That darned relabelling relation has been bothering for a long time.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 12]
```diff
@@ -1423,9 +1822,20 @@ instance : Sub PGame :=
...
 
 @[simp]
-theorem sub_zero (x : PGame) : x - 0 = x + 0 :=
+theorem sub_zero_eq_add_zero (x : PGame) : x - 0 = x + 0 :=
   show x + -0 = x + 0 by rw [neg_zero]
 
+protected lemma sub_zero (x : PGame) : x - 0 ≡ x :=
+  _root_.trans (of_eq x.sub_zero_eq_add_zero) x.add_zero
+
+/-- Use the same name convention as global lemmas. -/
```
Comment (hwatheod) [inline Mathlib/SetTheory/Game/PGame.lean:1831]: This doc string doesn't explain the lemma, and will be confusing when it shows up by itself on a hover.

File: Mathlib/SetTheory/Game/Basic.lean [hunk 13]
```diff
@@ -913,6 +1014,16 @@ def inv'Zero : inv' 0 ≡r 1 := by
...
+/-- `inv' 1` has exactly the same moves as `1`. -/
+lemma inv'_one : inv'.{u} 1 ≡ 1 := by
+  have : IsEmpty {_i : PUnit.{u+1} // (0 : PGame.{u}) < 0} := by
+    rw [lt_self_iff_false]
+    infer_instance
+  refine ⟨?_, ?_⟩ <;> dsimp [Relator.BiTotal, Relator.LeftTotal, Relator.RightTotal]
+  · simp_rw [Unique.forall_iff, Unique.exists_iff, PGame.invVal_isEmpty, and_self]
+    exact identical_zero _
+  · simp
+
```
Comment (hwatheod) [inline Mathlib/SetTheory/Game/Basic.lean:1026]:
```suggestion
/-- `inv' 1` has exactly the same moves as `1`. -/
lemma inv'_one : inv'.{u} 1 ≡ (1 : PGame.{u}) := by
  rw [Identical.ext_iff]
  constructor
  · unfold memₗ
    simp [inv']
  · unfold memᵣ
    simp [inv']
```

File: Mathlib/SetTheory/Game/PGame.lean [hunk 14]
```diff
@@ -340,6 +352,153 @@ instance uniqueOneLeftMoves : Unique (LeftMoves 1) :=
 instance isEmpty_one_rightMoves : IsEmpty (RightMoves 1) :=
   instIsEmptyPEmpty
 
+/-! ### Identity -/
+
+/-- Two pre-games are identical if their left and right sets are identical.
+That is, `Identical x y` if every left move of `x` is identical to some left move of `y`,
+every right move of `x` is identical to some right move of `y`, and vice versa. -/
+def Identical : ∀ (_ _ : PGame), Prop
```
Comment (hwatheod) [inline Mathlib/SetTheory/Game/PGame.lean:360]:
```suggestion
def Identical : ∀ (_ _ : PGame.{u}), Prop
```
We don't ever want to compare two `PGame`s from different universes, right ?

File: Mathlib/SetTheory/Game/Basic.lean [hunk 15]
```diff
@@ -899,6 +993,13 @@ theorem zero_lf_inv' : ∀ x : PGame, 0 ⧏ inv' x
     convert lf_mk _ _ InvTy.zero
     rfl
 
+/-- `inv' 0` has exactly the same moves as `1`. -/
+lemma inv'_zero : inv' 0 ≡ (1 : PGame) := by
```
Comment (hwatheod) [inline Mathlib/SetTheory/Game/Basic.lean:997]: I know you were just following the existing lemmas but in my opinion, these lemmas about `inv' 0` should be removed. The purpose of `inv'` is only a temporary step to define inverses for positive numbers, and the full definition of inverse is in `instance : Inv PGame` below which is the actual definition of interest. There is no need for `inv' 0`. If you decide to keep this, I would recommend rewriting with `Identical.ext_iff` as in my previous suggestion for `inv'_one`.

File: Mathlib/SetTheory/Game/PGame.lean (hunk 10 above)
Comment (hwatheod) [reply Mathlib/SetTheory/Game/PGame.lean]: Already changed globally in #14934

File: Mathlib/SetTheory/Game/PGame.lean (hunk 4 above)
Comment (hwatheod) [reply Mathlib/SetTheory/Game/PGame.lean:411]: I would also prefer using underscores rather than disabling the linter.

**Comment by semorrison** [comment]
Thanks for all the review comments, @hwatheod and @vihdzp.

I'll mark this as `awaiting-author` now.

File: Mathlib/SetTheory/Game/PGame.lean (hunk 14 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Game/PGame.lean:360]: Maybe we might want to do this, but we shouldn't do it anyways. The correct way would be to introduce `PGame.lift`, analogously to e.g. ordinals and cardinals.

File: Mathlib/SetTheory/Game/Basic.lean (hunk 15 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Game/Basic.lean:997]: Admittedly `inv' 0 = 0` is more of an API curiosity, but we've got lemmas like `1 / 0 = 0` elsewhere in Lean. All the other lemmas on `inv'` seem at least potentially useful, since to prove things about `inv`, you have to case on the sign of your number, and both cases then unfold to it.

File: Mathlib/SetTheory/Game/PGame.lean (hunk 6 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Game/PGame.lean]: Fair enough, we can tamper with the API in some separate PR if needed.

File: Mathlib/SetTheory/Game/PGame.lean (hunk 8 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Game/PGame.lean:477]: Alright, but I'd still like that doc comment. Might be something like "establishes an identical relation by giving an explicit correspondence between the left and right moves of two games."

Comment (vihdzp) [reply Mathlib/SetTheory/Game/PGame.lean:477]: The word "translation" in your comment reminds me of translations in geometry a bit too much. Maybe "correspondence" is a better term?

File: Mathlib/SetTheory/Game/Basic.lean (hunk 15 above)
Comment (hwatheod) [reply Mathlib/SetTheory/Game/Basic.lean:997]: `1 / 0 = 0` is fine, and the analog of that for the surreals is the theorem `inv_zero : (0 : PGame)⁻¹ = 0` found later in this file. But the proof of `inv_zero` doesn't use any theorem about `inv'` because `x⁻¹` is defined by 
```
noncomputable instance : Inv PGame :=
  ⟨by classical exact fun x => if x ≈ 0 then 0 else if 0 < x then inv' x else -inv' (-x)⟩
```
So the definition of `x⁻¹` (which is what we really want) only uses `inv'` in the non-zero cases; for 0 it bypasses `inv'` with `if x ≈ 0 then 0`. That's why I'm saying we don't need `inv' 0`.

**Comment by vihdzp** [comment]
Is this still being worked on? I can take it over if not.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 16]
```diff
@@ -1267,6 +1488,30 @@ instance : Add PGame.{u} :=
     · exact fun i => IHxr i y
     · exact IHyr⟩
 
+@[simp]
+lemma leftMoves_mk_add {xl xr yl yr} {xL xR yL yR} :
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:1492]: On the one hand, I'm surprised we didn't have these. It might be worth it adding the versions for multiplication too, if we're missing them. 

On the other hand, the intended way to talk about moves of addition, etc. is though `toLeftMovesAdd`, etc. Unfolding things in terms of `mk` like this should be a last resort. Are these lemmas getting used in this PR?

File: Mathlib/SetTheory/Game/PGame.lean [hunk 17]
```diff
@@ -1405,6 +1650,134 @@ instance isEmpty_nat_rightMoves : ∀ n : ℕ, IsEmpty (RightMoves n)
...
+/-- Any game without left or right moves is identival to 0. -/
+lemma identical_zero (x : PGame) [IsEmpty x.LeftMoves] [IsEmpty x.RightMoves] : x ≡ 0 :=
+  x.identical_zero_iff.mpr ⟨by infer_instance, by infer_instance⟩
+
+lemma add_eq_zero_iff' : ∀ (x y : PGame), x + y ≡ 0 ↔ x ≡ 0 ∧ y ≡ 0
+  | mk xl xr xL xR, mk yl yr yL yR => by
+    simp_rw [identical_zero_iff, leftMoves_add, rightMoves_add, isEmpty_sum]
+    tauto
+
+lemma add_eq_zero_iff (x y : PGame.{u}) :
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:1746]: Why do we have the same lemma twice?

**Review by vihdzp — COMMENTED** [review]
Some more notes/concerns.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 18]
```diff
@@ -344,6 +356,144 @@ instance uniqueOneLeftMoves : Unique (LeftMoves 1) :=
...
+    Relator.BiTotal (fun i j ↦ Identical (xL i) (yL j)) ∧
+      Relator.BiTotal (fun i j ↦ Identical (xR i) (yR j))
+
+@[inherit_doc] scoped infix:50 " ≡ " => PGame.Identical
+
+/-- `x ∈ₗ y` if `x` is identical to some left move of `y`. -/
+def memₗ (x y : PGame.{u}) : Prop := ∃ b, x ≡ y.moveLeft b
+
+/-- `x ∈ᵣ y` if `x` is identical to some right move of `y`. -/
+def memᵣ (x y : PGame.{u}) : Prop := ∃ b, x ≡ y.moveRight b
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:375]: We should have `moveLeft_memₗ` and `moveRight_memᵣ`.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 19]
```diff
@@ -344,6 +356,144 @@ instance uniqueOneLeftMoves : Unique (LeftMoves 1) :=
...
+
+@[inherit_doc] scoped infix:50 " ∈ₗ " => PGame.memₗ
+@[inherit_doc] scoped infix:50 " ∈ᵣ " => PGame.memᵣ
+@[inherit_doc PGame.memₗ] binder_predicate x " ∈ₗ " y:term => `($x ∈ₗ $y)
+@[inherit_doc PGame.memᵣ] binder_predicate x " ∈ᵣ " y:term => `($x ∈ᵣ $y)
+
+theorem identical_iff : ∀ {x y : PGame}, Identical x y ↔
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:382]:
```suggestion
theorem identical_iff : ∀ {x y : PGame}, x ≡ y ↔
```

**Review by vihdzp — COMMENTED** [review]
Besides what I've brought up, I think this all looks fine to me.

**Comment by vihdzp** [comment]
Are you still available for this PR? If not, I can take it over.

File: Mathlib/SetTheory/Game/Basic.lean [hunk 20]
```diff
@@ -368,6 +366,51 @@ theorem rightMoves_mul_cases {x y : PGame} (k) {P : (x * y).RightMoves → Prop}
...
+      (∃ i j, p (toRightMovesMul (.inl (i, j)))) ∨ (∃ i j, p (toRightMovesMul (.inr (i, j)))) := by
+  cases' x with xl xr xL xR
+  cases' y with yl yr yL yR
+  constructor
+  · rintro ⟨(⟨i, j⟩ | ⟨i, j⟩), hi⟩
+    exacts [.inl ⟨i, j, hi⟩, .inr ⟨i, j, hi⟩]
+  · rintro (⟨i, j, h⟩ | ⟨i, j, h⟩)
+    exacts [⟨_, h⟩, ⟨_, h⟩]
+
+lemma memₗ_mul_iff : ∀ {x y₁ y₂ : PGame},
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Game/Basic.lean:400]: These are games we're talking about! I don't think it makes much sense to keep the concept of moves as an implementation detail.

Likewise, I think we should have set valued `IGame.LeftMoves` and `IGame.RightMoves`. We can even have a constructor for `IGame` based on these sets, well-behaved whenever the sets are `Small` in that universe.

File: Mathlib/SetTheory/Game/PGame.lean (hunk 16 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Game/PGame.lean:1496]: Yeah, the `mk` lemmas are useful when you need definitional equalities. That said, we should avoid them outside of basic API development like you mention.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 21]
```diff
@@ -1338,25 +1338,63 @@ between them. -/
...
   simp [neg_moveLeft]
 
-@[simp]
-theorem neg_moveRight' {x : PGame} (i) :
+theorem neg_moveRight' {x : PGame} {i} :
     (-x).moveRight (toRightMovesNeg i) = -x.moveLeft i := by
   simp [neg_moveRight]
 
+@[deprecated neg_moveLeft' (since := "2024-08-27")]
+theorem moveLeft_neg {x : PGame} (i) : (-x).moveLeft (toLeftMovesNeg i) = -x.moveRight i := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:1362]: What exactly is going on here? If you want to switch up the existing lemmas on `moveLeft` and `moveRight`, I recommend you do it in a separate PR.

File: Mathlib/SetTheory/Game/Basic.lean [hunk 22]
```diff
@@ -455,6 +470,39 @@ def negMulRelabelling (x y : PGame.{u}) : -x * y ≡r -(x * y) :=
         exact (negMulRelabelling _ _).symm
   termination_by (x, y)
 
+/-- `x * -y` and `-(x * y)` have the same moves. -/
+lemma mul_neg (x y : PGame) : x * -y = -(x * y) :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/Basic.lean:474]: [`mul_neg`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/Defs.html#mul_neg) is marked as a simp lemma, should this be too?

File: Mathlib/SetTheory/Game/Basic.lean [hunk 23]
```diff
@@ -455,6 +470,39 @@ def negMulRelabelling (x y : PGame.{u}) : -x * y ≡r -(x * y) :=
...
+        exacts [mul_neg _ (mk _ _ _ _), mul_neg _ _, mul_neg _ _]
+      · refine (@mul_moveRight_inr (mk xl xr xL xR) (-mk yl yr yL yR) i j).trans ?_
+        dsimp
+        rw [PGame.neg_sub', PGame.neg_add]
+        congr
+        exacts [mul_neg _ (mk _ _ _ _), mul_neg _ _, mul_neg _ _]
+  termination_by (x, y)
+
+/-- `-x * y` and `-(x * y)` have the same moves. -/
+lemma neg_mul (x y : PGame) : -x * y ≡ -(x * y) :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/Basic.lean:503]: Do we have the equality in this case too?

**Review by vihdzp — COMMENTED** [review]
I agree with most of the changes here, and I'd really like this PR to move forward. That being said, I do feel like this PR does more than advertised. There's a bunch of extra golfing, renaming, and some new theorems. Can these be split into separate PRs?

File: Mathlib/SetTheory/Game/Basic.lean [hunk 24]
```diff
@@ -380,6 +378,17 @@ theorem rightMoves_mul_cases {x y : PGame} (k) {P : (x * y).RightMoves → Prop}
   · apply hl
   · apply hr
 
+/-- `x * y` and `y * x` have the same moves. -/
+protected lemma mul_comm (x y : PGame) : x * y ≡ y * x :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/Basic.lean:382]: Just a small note to maintainers: since the ultimate goal is to replace `Relabelling` in favor of `Identical`, this proof is preferrable to the more direct one that makes use of `mulCommRelabelling`.

File: Mathlib/SetTheory/Game/Basic.lean [hunk 25]
```diff
@@ -458,6 +473,40 @@ def negMulRelabelling (x y : PGame.{u}) : -x * y ≡r -(x * y) :=
...
+        dsimp
+        rw [PGame.neg_sub', PGame.neg_add]
+        congr
+        exacts [mul_neg _ (mk _ _ _ _), mul_neg _ _, mul_neg _ _]
+      · refine (@mul_moveRight_inr (mk xl xr xL xR) (-mk yl yr yL yR) i j).trans ?_
+        dsimp
+        rw [PGame.neg_sub', PGame.neg_add]
+        congr
+        exacts [mul_neg _ (mk _ _ _ _), mul_neg _ _, mul_neg _ _]
+  termination_by (x, y)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/Basic.lean:504]:
```suggestion
@[simp]
lemma mul_neg : ∀ x y : PGame, x * -y = -(x * y)
  | mk xl xr xL xR, mk yl yr yL yR => by
    refine ext rfl rfl ?_ ?_ <;> rintro (⟨i, j⟩ | ⟨i, j⟩) _ ⟨rfl⟩
    all_goals
      dsimp
      rw [PGame.neg_sub', PGame.neg_add]
      congr
      exacts [mul_neg _ (mk ..), mul_neg .., mul_neg ..]
termination_by x y => (x, y)
```
Here's some golfing! This is some pretty unorthodox syntax so feel free to adjust it to however you think it looks nicer.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 26]
```diff
@@ -150,6 +151,15 @@ theorem rightMoves_mk {xl xr xL xR} : (⟨xl, xr, xL, xR⟩ : PGame).RightMoves
 theorem moveRight_mk {xl xr xL xR} : (⟨xl, xr, xL, xR⟩ : PGame).moveRight = xR :=
   rfl
 
+lemma ext {x y : PGame} (hl : x.LeftMoves = y.LeftMoves) (hr : x.RightMoves = y.RightMoves)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:154]: Can this / should this be tagged as `@[ext]`?

File: Mathlib/SetTheory/Game/PGame.lean [hunk 27]
```diff
@@ -150,6 +151,15 @@ theorem rightMoves_mk {xl xr xL xR} : (⟨xl, xr, xL, xR⟩ : PGame).RightMoves
...
+    (hL : ∀ i j, HEq i j → x.moveLeft i = y.moveLeft j)
+    (hR : ∀ i j, HEq i j → x.moveRight i = y.moveRight j) :
+    x = y := by
+  suffices HEq x.moveLeft y.moveLeft → HEq x.moveRight y.moveRight → x = y from
+    this (hfunext hl (heq_of_eq <| hL · · ·)) (hfunext hr (heq_of_eq <| hR · · ·))
+  cases x; cases y; cases hl; cases hr
+  rintro ⟨rfl⟩ ⟨rfl⟩; rfl
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:161]:
```suggestion
  cases x
  cases y
  subst hl hr
  simp only [leftMoves_mk, rightMoves_mk, heq_eq_eq, forall_eq', mk.injEq, true_and] at *
  exact ⟨funext hL, funext hR⟩
```
Here's an alternate proof which avoids the awkward auxiliary `suffices` block. Again, feel free to make style tweaks if you want.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 28]
```diff
@@ -1392,6 +1420,10 @@ theorem neg_lf_neg_iff {x y : PGame} : -y ⧏ -x ↔ x ⧏ y :=
 theorem neg_lt_neg_iff {x y : PGame} : -y < -x ↔ x < y := by
   rw [lt_iff_le_and_lf, lt_iff_le_and_lf, neg_le_neg_iff, neg_lf_neg_iff]
 
+@[simp]
+theorem neg_identical_neg_iff {x y : PGame} : (-x ≡ -y) ↔ (x ≡ y) :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:1424]:
```suggestion
theorem neg_identical_neg_iff {x y : PGame} : -x ≡ -y ↔ x ≡ y :=
```
Might be a good idea to fix this in `neg_equiv_neg_iff` as well.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 29]
```diff
@@ -1463,6 +1495,18 @@ instance : Add PGame.{u} :=
     · exact fun i => IHxr i y
     · exact IHyr⟩
 
+@[simp]
+theorem mk_add_moveLeft {xl xr yl yr} {xL xR yL yR} {i} :
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:1499]: I doubt this or the following make good simp lemmas.

**Review by vihdzp — APPROVED** [review]

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by TwoFX — COMMENTED** [review]
bors r+
